US05972975
A mixture of 2-amino-4,6-dimethylpyridine (20.0 g, 164 mmol), acetonylacetone (30 mL, 170 mmol), acetic acid (2.0 mL, 35 mmol), and sodium acetate trihydrate (200 mg, 1.5 mmol) in 140 mL of toluene was heated to reflux for 48 h in a flask connected to a Dean-Stark trap. After cooling to room temperature, the reaction mixture was washed with 50 mL each of 2.5 N aqueous sodium hydroxide, water, and saturated aqueous sodium chloride. The organic layer was dried (sodium sulfate), decanted, and evaporated. The residue was distilled through a 1×10 cm Vigreaux column to give 29.09 g (89% yield) of 4,6-dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine as an almost colorless liquid boiling at 93-97° C. (0.05 mm).

reactant | 2-amino-4,6-dimethylpyridine | 164 mmol, 20.0 g | NC1=NC(=CC(=C1)C)C | C7H10N2
reactant | acetonylacetone | 170 mmol, 30 mL | C(C(=O)C)CC(C)=O | C6H10O2
reactant | acetic acid | 35 mmol, 2.0 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 140 mL | C1(=CC=CC=C1)C | C7H8
catalyst | sodium acetate trihydrate | 1.5 mmol, 200 mg | O.O.O.C(C)(=O)[O-].[Na+]
product | 4,6-dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine | 29.09 g, 89% yield | CC1=CC(=NC(=C1)C)N1C(=CC=C1C)C | C13H16N2
